US07855290B2
tert-Butyl 3-(dimethylaminomethyl)azetidine-1-carboxylate
To a solution of tert-butyl 3-[(methanesulfonyloxy)methyl]azetidine-1-carboxylate (1.05 g) in methanol (20 ml) was added a 2M solution of dimethylamine in tetrahydrofuran (20 ml), followed by heating in a sealed tube at 70° C. for 40 hr. The reaction mixture was allowed to cool down to room temperature. The reaction mixture was concentrated, and partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed to provide the titled compound as a yellow oil (678 mg, 79.9%).

reactant | tert-butyl 3-[(methanesulfonyloxy)methyl]azetidine-1-carboxylate | 1.05 g | CS(=O)(=O)OCC1CN(C1)C(=O)OC(C)(C)C | C10H19NO5S
reactant | dimethylamine | CNC | C2H7N
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | tert-Butyl 3-(dimethylaminomethyl)azetidine-1-carboxylate | 678 mg, 79.9% | CN(C)CC1CN(C1)C(=O)OC(C)(C)C | C11H22N2O2
